US08791142B2
Step 1) methyl 4-bromo-3-(bromomethyl)benzoate
NBS (46.6 g, 262 mmol) and AIBN (0.72 g, 4.4 mmol) were added in one portion into a solution of methyl 4-bromo-3-methylbenzoate (50.0 g, 218 mmol) in CHCl3 (1 L) under N2. The mixture was stirred at 70° C. for 2 days. The reaction mixture was cooled to RT and water (500 mL) was added. The organic layer was washed with a saturated solution of NaHCO3 (50 mL), water (350 mL) and brine (500 mL). The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was washed with pentane (2×500 mL) affording the title compound as a yellow solid. HPLC (Method A), Rt 4.9 min (Purity: 98.2%). 1H NMR (DMSO-d6, 300 MHz) δ 8.24 (d, J=1.9 Hz, 1H), 7.85 (m, 2H), 4.87 (s, 2H), 3.91 (s, 3H).

reactant | NBS | 262 mmol, 46.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 4.4 mmol, 0.72 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | methyl 4-bromo-3-methylbenzoate | 218 mmol, 50.0 g | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | water | 500 mL | O | H2O
solvent | CHCl3 | 1 L | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-bromo-3-(bromomethyl)benzoate | BrC1=C(C=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
